US09359386B1
Synthesis of Nonafluorohexyldichlorosilane
Under a nitrogen atmosphere, a 1-liter 3-necked flask equipped with a heating mantle, magnetic stirrer, pot thermometer, addition funnel and dry-ice condenser was charged with nonafluorohexyltrichlorosilane (457.8 g) and tetradecyl(trihexyl)phosphonium chloride (15.4 g). The mixture was heated to 80° C. and dimethylchlorosilane (124.9 g) was added to the mixture via addition funnel over 1 hr. The pot temperature dropped due to light chlorosilane refluxing. Upon completion of the addition, the reaction was refluxed for 6-8 hrs. The pot temperature slowly increased to 75° C., which indicates the conversion of dimethylchlorosilane to dimethyldichlorosilane. The reaction was cooled to room temperature and GC analysis (low-temp. method) of the mixture indicated about 84% completion. The pot was vented carefully under the protection of nitrogen. Distillation provided 386.6 g of crude product (63.5% pure, 58.0% yield).

reactant | nonafluorohexyltrichlorosilane | 457.8 g | FC(C(C(F)(F)[Si](Cl)(Cl)Cl)(F)F)(CCC(F)(F)F)F | C6H4Cl3F9Si
reactant | dimethylchlorosilane | 124.9 g | C[SiH](Cl)C | C2H7ClSi
reactant | chlorosilane | Cl[SiH3] | ClH3Si
reactant | dimethyldichlorosilane | C[Si](Cl)(Cl)C | C2H6Cl2Si
catalyst | tetradecyl(trihexyl)phosphonium chloride | 15.4 g | [Cl-].C(CCCCCCCCCCCCC)[P+](CCCCCC)(CCCCCC)CCCCCC
product | Nonafluorohexyldichlorosilane | 386.6 g, 58.0% yield | FC(C(C(F)(F)[SiH](Cl)Cl)(F)F)(CCC(F)(F)F)F | C6H5Cl2F9Si
